US07670591B2
(b) 5-(6-Methoxy-1,3-benzoxazol-2-yl)-N,N-dimethylpyridin-2-amine (Final Compound)
6-Chloro-N-(2-hydroxy-4-methoxyphenyl)nicotinamide (40 mg, 0.14 mmol) was dissolved in DMF (1.5 mL) and one drop of sulfuric acid was added. The reaction was run at 230° C. for 20 minutes in a microwave reactor. The mixture was added to water, the solid was collected, rinsed with water and dried. The crude product was purified by flash column chromatography using 40% ethyl acetate in hexane, giving the title compound (14 mg) as an orange solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.96 (d, 1H) 8.19 (dd, 1 H) 7.57 (d, 1H) 7.10 (d, 1H) 6.92 (dd, 1H) 6.60 (d, 1H) 3.88 (s, 3H) 3.20 (s, 6H); MS m/z (M+H) 270.

reactant | 6-Chloro-N-(2-hydroxy-4-methoxyphenyl)nicotinamide | 0.14 mmol, 40 mg | ClC1=NC=C(C(=O)NC2=C(C=C(C=C2)OC)O)C=C1 | C13H11ClN2O3
reactant | water | O | H2O
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 5-(6-Methoxy-1,3-benzoxazol-2-yl)-N,N-dimethylpyridin-2-amine | 14 mg | COC1=CC2=C(N=C(O2)C=2C=CC(=NC2)N(C)C)C=C1 | C15H15N3O2
